2132-03-15 10:39:00 Physician Attending Progress Note
Chief Complaint:
   HPI: 85 year-old man with multiple medical problems here with right
   sided PNA.  No improvement on abx.  Underwent bronch, with
   decompensation afterwards.  Rising Cr, started on prednisone on [**3-13**]
   for ?eos PNA, BOOP or pulm-renal syndrome.
   24 Hour Events:
 ULTRASOUND - At [**2132-3-14**] 10:30 AM
   Abd U/S
 STOOL CULTURE - At [**2132-3-14**] 02:43 PM
 neg C.diff
   Feels better, not desating on 3L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-3-13**] 06:07 PM
   Vancomycin - [**2132-3-14**] 05:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-3-14**] 08:38 PM
   Heparin Sodium (Prophylaxis) - [**2132-3-15**] 08:00 AM
   Other medications: colace, lipitor, ASA 325, heparin SC, flomax,
   prednisone 60, lopressor, Robitussin AC
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-15**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 79 (66 - 135) bpm
   BP: 108/59(67) {80/42(36) - 134/88(100)} mmHg
   RR: 24 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
             Total In:
                                                                  1,580 mL
                                                                    692 mL
   PO:
                                                                    890 mL
                                                                    590 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    290 mL
   Urine:
                                                                    490 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    840 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   NAD, sitting up in chair.
   RRR, S1S2, no murmur
   Chest with right sided crackles, wheeze with coughing.
   Abdomen distended and tympanitic
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   324 K/uL
   151 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   54 mg/dL
   99 mEq/L
   133 mEq/L
   26.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2132-3-13**]  02:23 PM
                             [**2132-3-13**]  02:37 PM
                             [**2132-3-13**]  03:08 PM
                             [**2132-3-13**]  07:46 PM
                             [**2132-3-14**]  03:25 AM
                             [**2132-3-14**]  02:44 PM
                             [**2132-3-15**]  03:56 AM
   WBC
   5.9
   6.9
   10.5
   Hct
   27.1
   28.0
   26.1
   Plt
   [**Telephone/Fax (3) 5849**]
   Cr
   1.3
   1.4
   1.5
   1.7
   1.7
   TropT
   0.02
   0.02
   TCO2
   29
   29
   Glucose
   129
   123
   127
   211
   151
   Other labs: PT / PTT / INR:14.8/32.7/1.3, CK / CKMB /
   Troponin-T:101/5/0.02, ALT / AST:97/186, Alk Phos / T Bili:98/0.4,
   Differential-Neuts:91.2 %, Lymph:6.9 %, Mono:1.7 %, Eos:0.1 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.4 g/dL, LDH:379 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.4 mg/dL.
   BAL not revealing
 except for Eos count.
   CXR
 maybe some clearing right apex.
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CORONARY ARTERY BYPASS GRAFT (CABG)
 HYPOXEMIA: suspected eosinophilic pneumonia.  F/up BAL.  Wean O2.
 Renal Failure: Contrast vs. renal-pulm.  Does not appear to be
   pre-renal.  Check UA and/or sediment.
   Distended abdomen: still stooling and passing gas.  Bowel regimen.
   Check KUB
   ICU Care
   Nutrition: Oral diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-3-13**] 02:29 PM
   20 Gauge - [**2132-3-13**] 02:30 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with patient
   Code status: Full code
   Disposition : Floor
   Total time spent: 30 mins